US06841554B2
1.0M Sodium hydroxide solution (26.3 ml) was added to a stirred solution of methylammonium (E)-7-[4-(4-fluorophenyl)-6-isopropyl-2-[methyl(methylsulfonyl)amino]-pyrimidin-5-yl]-(3R,5S)-3,5-dihydroxyhept-6-enoate (15 g) in water (106 ml) at ambient temperature. A solution of magnesium sulphate (4.3 g) in water (26 ml) was added over 20 minutes and a solid precipitated. The solid was collected by filtration, washed with water (20 ml) and dried under vacuum at 40° C. (7.7 g). A mixture of the solid (5.8 g) and water (50 ml) was heated to 38° C. and diluted with water (35 ml). The mixture was stirred at ambient temperature for 4 hours and then allowed to stand for 66 hours. The solid was collected by filtration after diluting with water (30 ml). The product was dried at 35° C. under vacuum to give magnesium (E)-7-[4-(4-fluorophenyl)-6-isopropyl-2-[methyl(methylsulfonyl)amino]-pyrimidin-5-yl]-(3R,5S)-3,5-dihydroxyhept-6-enoate (4.68 g) as white crystals. The X-ray powder diffraction spectra for a typical sample of the crystalline magnesium salt is shown in FIG. 9 hereinafter. The ten most prominent peaks in the XRD occur at about 2-theta=11.5, 14.5, 16.3, 16.8, 18.0, 19.1, 19.8, 21.8, 22.6 and 23.0°.

reactant | Sodium hydroxide | 1.0M, 26.3 ml | [OH-].[Na+]
reactant | methylammonium (E)-7-[4-(4-fluorophenyl)-6-isopropyl-2-[methyl(methylsulfonyl)amino]-pyrimidin-5-yl]-(3R,5S)-3,5-dihydroxyhept-6-enoate | 15 g | FC1=CC=C(C=C1)C1=NC(=NC(=C1/C=C/[C@H](C[C@H](CC(=O)[O-])O)O)C(C)C)N(S(=O)(=O)C)C.C[NH3+]
reactant | magnesium sulphate | 4.3 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | water | 106 ml | O | H2O
solvent | water | 26 ml | O | H2O
product | magnesium (E)-7-[4-(4-fluorophenyl)-6-isopropyl-2-[methyl(methylsulfonyl)amino]-pyrimidin-5-yl]-(3R,5S)-3,5-dihydroxyhept-6-enoate | 4.68 g | FC1=CC=C(C=C1)C1=NC(=NC(=C1/C=C/[C@H](C[C@H](CC(=O)[O-])O)O)C(C)C)N(S(=O)(=O)C)C.[Mg+2].FC1=CC=C(C=C1)C1=NC(=NC(=C1/C=C/[C@H](C[C@H](CC(=O)[O-])O)O)C(C)C)N(C)S(=O)(=O)C | InChI=1S/2C22H28FN3O6S.Mg/c2*1-13(2)20-18(10-9-16(27)11-17(28)12-19(29)30)21(14-5-7-15(23)8-6-14)25-22(24-20)26(3)33(4,31)32;/h2*5-10,13,16-17,27-28H,11-12H2,1-4H3,(H,29,30);/q;;+2/p-2/b2*10-9+;/t2*16-,17-;/m11./s1
